datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1ccc(C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"O=C([O-])C(NCC[NH:10]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].c1ccc(NC2=[N+:21]([H:20])CCCO2)cc1>>O=C([O-])C(NCC[NH+:10](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].c1ccc(NC2=[N:21]CCCO2)cc1 10=20;20,21=21",
"CP(C)(=O)[O:21][H:20].N#CC(C#N)=[N:10]Nc1ccc(Cl)cc1>>CP(C)(=O)[O-:21].N#CC(C#N)=[N+:10](Nc1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:10]1CCOCC1.CC[N+:21](CC)(Cc1cn2nc(-c3ccccc3)cc(C)c2n1)[H:20]>>CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:10]1([H:20])CCOCC1.CC[N:21](CC)Cc1cn2nc(-c3ccccc3)cc(C)c2n1 10=20;20,21=21",
"C[NH+:21](CC(=O)NCCc1c[nH]cn1)[H:20].O=C(Cc1cccs1)[O-:10]>>C[NH:21]CC(=O)NCCc1c[nH]cn1.O=C(Cc1cccs1)[O:10][H:20] 10=20;20,21=21",
"CCCC(C(=O)[O-])[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCC(C(=O)[O-])[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(=O)N(c1ccccc1)c1nnc(S(=O)(=O)[NH:21][H:20])s1.C[O-:10]>>CC(=O)N(c1ccccc1)c1nnc(S(=O)(=O)[NH-:21])s1.C[O:10][H:20] 10=20;20,21=21",
"CCCCC[NH:10]CCCCC.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCC[NH+:10](CCCCC)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(C)(C)[N:10]1NC2CCC1C2.O=C(CCC[N+:21]1([H:20])CCOCC1)c1ccccc1>>CC(C)(C)[N+:10]1([H:20])NC2CCC1C2.O=C(CCC[N:21]1CCOCC1)c1ccccc1 10=20;20,21=21",
"CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH:10][C@@H]2C(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1(C)OC(=O)C[C@@H]2[C@H]1C[NH+:10]([H:20])[C@@H]2C(=O)[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC/C=C/CC1=[N:10]C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12.OC[NH+:21](c1ccc(Cl)cc1)[H:20]>>CC/C=C/CC1=[N+:10]([H:20])C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12.OC[NH:21]c1ccc(Cl)cc1 10=20;20,21=21",
"CCC(Oc1ccccc1C)C(=O)[O-:10].Nc1cc[nH+]c2c([O:21][H:20])cccc12>>CCC(Oc1ccccc1C)C(=O)[O:10][H:20].Nc1cc[nH+]c2c([O-:21])cccc12 10=20;20,21=21",
"Cn1cc([NH2+:21][H:20])cc1C(=O)[O-].[NH3+]C(CCC(=O)[O-:10])C(=O)[O-]>>Cn1cc([NH2:21])cc1C(=O)[O-].[NH3+]C(CCC(=O)[O:10][H:20])C(=O)[O-] 10=20;20,21=21",
"Fc1ccccc1[O:21][H:20].c1cnc2c(c1)ccc1ccc[n:10]c12>>Fc1ccccc1[O-:21].c1cnc2c(c1)ccc1ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CN(C)Cc1cc(OCc2ccccc2)ccc1[O-:10].O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CN(C)Cc1cc(OCc2ccccc2)ccc1[O:10][H:20].O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"Cc1cc([O:21][H:20])cc(C)[o+]1.Nc1nnnn1CC(=O)[O-:10]>>Cc1cc([O-:21])cc(C)[o+]1.Nc1nnnn1CC(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(F)(F)F)[n:10][nH]1.O=C(CSc1[nH]c2cc3ccccc3cc2[nH+]1)[O:21][H:20]>>Cc1cc(C(F)(F)F)[n+:10]([H:20])[nH]1.O=C(CSc1[nH]c2cc3ccccc3cc2[nH+]1)[O-:21] 10=20;20,21=21",
"CC(C)CC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)CC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[NH+](C)CCOCC[N+:21](C)(C)[H:20].CN(C)/C=[N:10]\c1ccc(Br)cc1>>CC[NH+](C)CCOCC[N:21](C)C.CN(C)/C=[N+:10](\c1ccc(Br)cc1)[H:20] 10=20;20,21=21",
"CC(C)[N:10]1C[Si](C)(C)O[Si](C)(C)C1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O:21][H:20]>>CC(C)[N+:10]1([H:20])C[Si](C)(C)O[Si](C)(C)C1.O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-:21] 10=20;20,21=21",
"O=C([O-])CCCC(=O)[N-:10]OCc1ccccc1.OC[C@H]1CC[N+:21]2([H:20])CCC[C@@H]12>>O=C([O-])CCCC(=O)[N:10](OCc1ccccc1)[H:20].OC[C@H]1CC[N:21]2CCC[C@@H]12 10=20;20,21=21",
"NC(=O)C[NH+](CC[N+:21](CC(N)=O)(Cc1ccccc1O)[H:20])Cc1ccccc1O.c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n:10]c23)cc1>>NC(=O)C[NH+](CC[N:21](CC(N)=O)Cc1ccccc1O)Cc1ccccc1O.c1ccc(Oc2ccnc3c2ccc2c(Oc4ccccc4)cc[n+:10]([H:20])c23)cc1 10=20;20,21=21",
"CC(C)C1=CC(=O)C([O:21][H:20])=C(Br)C=C1.O=C(C[N:10]1CCCCC1)NCc1ccccc1>>CC(C)C1=CC(=O)C([O-:21])=C(Br)C=C1.O=C(C[N+:10]1([H:20])CCCCC1)NCc1ccccc1 10=20;20,21=21",
"NC(=O)NOCCC(C(=O)[O-])[NH2+:21][H:20].O=C([C@@H]1C[C@@H]1Cl)[O-:10]>>NC(=O)NOCCC(C(=O)[O-])[NH2:21].O=C([C@@H]1C[C@@H]1Cl)[O:10][H:20] 10=20;20,21=21",
"CC(C)C(C(=O)[O-])[NH:10]C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)C(C(=O)[O-])[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O.CC[N:10](CC)CCC(OC(=O)c1ccccc1)c1ccccc1>>C=CCC1(C2C=CCCC2)C(=O)NC(=S)[N-:21]C1=O.CC[N+:10](CC)(CCC(OC(=O)c1ccccc1)c1ccccc1)[H:20] 10=20;20,21=21",
"Cc1ccc([N+](C)(C)[O:21][H:20])cc1.O=Nc1ccc([O-:10])cc1>>Cc1ccc([N+](C)(C)[O-:21])cc1.O=Nc1ccc([O:10][H:20])cc1 10=20;20,21=21",
"O=C(CP)[O:21][H:20].O=C1C=C(c2ccccc2[O-:10])Oc2ccccc21>>O=C(CP)[O-:21].O=C1C=C(c2ccccc2[O:10][H:20])Oc2ccccc21 10=20;20,21=21",
"COc1ccc2ccc(OC)c([N:10]3CCOCC3)c2c1N1CCOCC1.c1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1>>COc1ccc2ccc(OC)c([N+:10]3([H:20])CCOCC3)c2c1N1CCOCC1.c1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1 10=20;20,21=21",
